US06399627B1
To a solution of ethyl acetoacetate (1.3 g, 10 mmol) in 10 ml anhydrous dichloromethane was added triethylamine (1.46 ml, 10.5 mmol). The reaction was cooled to −78° C. under argon to which trifluoromethanesulfonic anhydride (2.96 g, 10.5 mmol) was added dropwise via syringe over 5 minutes. Reaction was allowed to warm to room temperature and stirred over night. Next morning the reaction was diluted with 25 ml dichloromethane, organic was washed with 2×50 ml water, 2×50 ml 1N HCl, dried over magnesium sulfate, filtered and concentrated. Crude oil was chromatographed on silica gel using 5% EtOAc in hexane as the eluent to give 1) ethyl (E)-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-propenoate (800 mg, 60%) as a clear oil: H1NMR (CDCl3): 1.247-1.282 (t, 3H); 2.471 (s, H); 4.155-4.209 (m, 2H); 5.912 (s, H); and 2) ethyl (Z)-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-propenoate (450 mg, 30%) as a clear oil: H1NMR (CDCl3): 1.247-1.283 (t, 3H); 2.131 (s, 3H); 4.18-4.233 (m, 2H); 5.736 (s, H)

reactant | ethyl acetoacetate | 10 mmol, 1.3 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | triethylamine | 10.5 mmol, 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 10.5 mmol, 2.96 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | ethyl (E)-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-propenoate | 800 mg, 60% | FC(S(=O)(=O)O/C=C/C(=O)OCC)(F)F | C6H7F3O5S
